US04835248
Preparation of copoly(L-lysine ethyl-butyl ester fumaramide)
1.52 g of fumaryl chloride in 200 ml of methylene chloride are polycondensed, analogously to Example 2, with 2.47 g of lysine ethyl ester dihydrochloride and 2.75 g of lysine butyl ester dihydrochloride in 200 ml of water which contains 5.5 g of potassium hydroxide. 2.5 g (71% of theory) of white, fiber-like copolycondensate are obtained.

reactant | fumaryl chloride | 1.52 g | C(\C=C\C(=O)Cl)(=O)Cl | C4H2Cl2O2
reactant | lysine ethyl ester dihydrochloride | 2.47 g | Cl.Cl.C(C)OC([C@@H](N)CCCCN)=O
reactant | lysine butyl ester dihydrochloride | 2.75 g | Cl.Cl.C(CCC)OC([C@@H](N)CCCCN)=O
reactant | potassium hydroxide | 5.5 g | [OH-].[K+]
reactant | water | 200 ml | O | H2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | L-lysine ethyl-butyl ester fumaramide | C(\C=C\C(=O)N)(=O)N.C(C)C(CCC)OC([C@@H](N)CCCCN)=O | InChI=1S/C12H26N2O2.C4H6N2O2/c1-3-7-10(4-2)16-12(15)11(14)8-5-6-9-13;5-3(7)1-2-4(6)8/h10-11H,3-9,13-14H2,1-2H3;1-2H,(H2,5,7)(H2,6,8)/b;2-1+/t10?,11-;/m0./s1
